US07547787B2
To a 3 L flask, a solution of 1-(mercaptomethyl)cyclopropaneacetic acid (330.7 g) in methanol (1500 ml) was charged. 96% sulfuric acid (36 g) was added, and the reaction mixture was stirred for 5 h at 19-22° C. The reaction mixture was concentrated to ¼ of its volume at 50° C. under reduced pressure, and the residue was partitioned between water (1000 ml) and ethyl acetate (500 ml). The organic phase was separated, washed with 10% NaHCO3 and 5% NaCl (200 ml), and dried overnight over anhydrous sodium sulfate. The mixture was filtered and evaporated at 50° C. under reduced pressure, to afford 315.7 g of the crude 1-(mercaptomethyl)cyclopropaneacetic acid methyl ester, as a colored liquid with a strong, unpleasant odor.

reactant | 1-(mercaptomethyl)cyclopropaneacetic acid | 330.7 g | SCC1(CC1)CC(=O)O | C6H10O2S
reactant | sulfuric acid | 36 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 1500 ml | CO | CH4O
product | 1-(mercaptomethyl)cyclopropaneacetic acid methyl ester | 315.7 g | COC(CC1(CC1)CS)=O | C7H12O2S
